US08686024B2
Synthesis of 1-(4-methoxybenzyl)indolin-5-yl 4-isopropylphenylcarbamate
To a solution of indolin-5-yl 4-isopropylphenylcarbamate (15.0 mg, 50.6 μmol) in 0.75 mL of dry dichloromethane was added 4-methoxybenzaldehyde (12.3 μL, 0.101 mmol) at room temperature. After the reaction mixture was stirred at the same temperature for 2 min, acetic acid (29 μL, 0.51 mmol) and sodium triacetoxyhydroborate (38 mg, 0.18 mmol) was added, successively. After the reaction mixture was stirred at the same temperature for 30 min, the reaction mixture was diluted with diethyl ether (2 mL). After the reaction mixture was neutralized by saturated NaHCO3 aqueous solution (1 mL), the organic layer was separated. The separated organic layer was concentrated in vacuo, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=90/10 to 50/50) to obtain the title compound as a white solid (17.2 mg, 82%).

reactant | indolin-5-yl 4-isopropylphenylcarbamate | 50.6 μmol, 15.0 mg | C(C)(C)C1=CC=C(C=C1)NC(OC=1C=C2CCNC2=CC1)=O | C18H20N2O2
reactant | 4-methoxybenzaldehyde | 0.101 mmol, 12.3 μL | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | acetic acid | 0.51 mmol, 29 μL | C(C)(=O)O | C2H4O2
reactant | sodium | [Na] | Na
reactant | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 0.75 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
product | 1-(4-methoxybenzyl)indolin-5-yl 4-isopropylphenylcarbamate | 17.2 mg, 82% | C(C)(C)C1=CC=C(C=C1)NC(OC=1C=C2CCN(C2=CC1)CC1=CC=C(C=C1)OC)=O | C26H28N2O3
